2163-02-24 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -- started fosphenytoin
   --pt spiked temp with Tmax 102.4, persistently febrile since 12pm.
   Pancultured.  Given persistent fevers started vanco/ cefepime.
   -- pt also complaining of back pain. Consider imaging of back to r/o
   abscess?? Difficult cooperation with neuro exam. Moving all ext.
   -- requiring 60mg valium
   -- continued spike to 102 at 24:00
   -- pt WBC 1.4, added on diff. ? neutropenia
 EKG - At [**2163-2-23**] 08:09 AM
 BLOOD CULTURED - At [**2163-2-23**] 12:00 PM
 URINE CULTURE - At [**2163-2-23**] 12:00 PM
 FEVER - 102.4
F - [**2163-2-23**] 02:00 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Keppra (Oral) (Levetiracetam)
   psychosis;
   Last dose of Antibiotics:
   Vancomycin - [**2163-2-23**] 07:00 PM
   Cefipime - [**2163-2-23**] 08:41 PM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2163-2-24**] 12:21 AM
   Fosphenytoin - [**2163-2-24**] 12:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-2-24**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**65**] AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.1
C (100.6
   HR: 99 (96 - 125) bpm
   BP: 108/60(73) {97/47(59) - 133/71(85)} mmHg
   RR: 15 (11 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,743 mL
                                                                     76 mL
   PO:
                                                                  2,740 mL
             TF:
   IVF:
                                                                  2,003 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                  1,060 mL
   Urine:
                                                                  2,260 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,483 mL
                                                                   -984 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   119 K/uL
   9.2 g/dL
   105 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.1 mEq/L
   5 mg/dL
   105 mEq/L
   134 mEq/L
   29.2 %
   1.4 K/uL
        [image002.jpg]
                             [**2163-2-23**]  05:09 AM
                             [**2163-2-23**]  03:35 PM
                             [**2163-2-24**]  03:40 AM
   WBC
   2.1
   1.4
   Hct
   30.8
   29.2
   Plt
   183
   119
   Cr
   0.5
   0.5
   0.6
   TropT
   <0.01
   Glucose
   88
   155
   105
   Other labs: PT / PTT / INR:10.5/24.9/0.9, CK / CKMB /
   Troponin-T:150/3/<0.01, ALT / AST:44/50, Alk Phos / T Bili:246/0.5,
   LDH:189 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   41 year old man with past medical history significant for EtOH abuse,
   c/b withdrawal seizures, with ? bipolar disorder, presenting to ED by
   EMS after being found intoxicated on the street, in fair condition.
   .
   #  INTOXICATION: Patient minimally responsive, with very high EtOH
   level ~3 hours after transfer to ED, suggesting exceedingly high levels
   when found on the street. Concern for ingestion of secondary substance,
   however serum osm gap is exactly that predicted for this degree of EtOH
   ingestion.
   Given history of seizure disorder, would also consider partial complex
   seizure at this time, however given pts ability to move all extremities
   and become verbally abusive and combative this is much less likely.
   - No Benzos at this time given very high EtOH
   - CIWA q1H
   - Seizure precautions
   - IV Thiamine / Folate / B12
   .
   # Fever/[**Name (NI) 10773**] Pt spiked 102 overnight; pancultured; thus far CXR
   and U/A unrevealing, blood and urine cultures pending.  [**Month (only) 11**] be viral
   cause of fever
   --Continue vanc/cefepime for broad coverage
   --Consider CMV, EBV; pt had HepB/HIV negative [**5-/2162**] but can recheck
   --Send RSV, Influenza
   --[**Month (only) 11**] consider imaging of back to r/o epidural abscess
   --F/U culture data
   -- CT L/T spine with contrast
   -- [**Month (only) 11**] need LP if above negative
   -- Send Hep B/Hep C viral load / Abx/ HIV ab/viral load for acute
   infection
   .
   #[**Name (NI) 10774**] Pts platelets trending down 119 today; not on heparin
   SC, low Hct and leukopenia
   -?Look at peripheral smear
   -Viral evaluation as above
   -Evaluate smear
   .
   #  FACIAL LAC: Repaired in ED, Tetanus shot given. Unable to assess for
   ligamentous neck trauma given profound intoxication
   -- Clear neck once mental status clears
   -- [**Location (un) 239**] J in place
   .
   #  SEIZURE DISORDER: Patient not on meds on admission; has seizure d/o
   --Started Phosphenytoin; check levels
   .
   #  ETOH ABUSE: Long [**Last Name **] problem per medical record, however only
   been in our system once ([**2162-5-21**]
   -- 10mg PO for CIWA>10 Q2H PRN
   .
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: pneumoboots, no indication of PPI / H2 blocker
   # ACCESS: PIV
   # CODE:  Presumed full
   # CONTACT:
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ALCOHOL ABUSE
 HYPOTHERMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-2-23**] 05:01 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2163-02-24 10:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   41 year old man with past medical history significant for EtOH abuse,
   c/b withdrawal seizures, with ? bipolar disorder, presenting to ED by
   EMS after being found intoxicated on the street, in fair condition.
   24 Hour Events:
   Febrile yest to 102- pan cultured and started on vanco + cefepime.
   Received total of 70mg Valium yest. c/o back pain x 2 weeks though
   today states pain started yesterday
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Keppra (Oral) (Levetiracetam)
   psychosis;
   Last dose of Antibiotics:
   Cefipime - [**2163-2-23**] 08:41 PM
   Vancomycin - [**2163-2-24**] 08:32 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2163-2-24**] 12:21 AM
   Fosphenytoin - [**2163-2-24**] 08:32 AM
   Other medications:
   folate, thiamine, MVI, lidocaine patch, nicotine patch, Valium prn,
   Tylenol prn, Oxycodone prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-2-24**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**65**] AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.1
C (100.6
   HR: 97 (96 - 125) bpm
   BP: 113/71(81) {97/47(59) - 133/71(81)} mmHg
   RR: 11 (11 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,743 mL
                                                                    302 mL
   PO:
                                                                  2,740 mL
             TF:
   IVF:
                                                                  2,003 mL
                                                                    302 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                  1,180 mL
   Urine:
                                                                  2,260 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,483 mL
                                                                   -878 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), no murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: +focal spinal tenderness in upper lumbar region
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, hyper-reflexic
   diffusely
   Labs / Radiology
   9.2 g/dL
   119 K/uL
   105 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.1 mEq/L
   5 mg/dL
   105 mEq/L
   134 mEq/L
   29.2 %
   1.4 K/uL
        [image002.jpg]
                             [**2163-2-23**]  05:09 AM
                             [**2163-2-23**]  03:35 PM
                             [**2163-2-24**]  03:40 AM
   WBC
   2.1
   1.4
   Hct
   30.8
   29.2
   Plt
   183
   119
   Cr
   0.5
   0.5
   0.6
   TropT
   <0.01
   Glucose
   88
   155
   105
   Other labs: PT / PTT / INR:10.5/24.9/0.9, CK / CKMB /
   Troponin-T:150/3/<0.01, ALT / AST:44/50, Alk Phos / T Bili:246/0.5,
   Differential-Neuts:63.0 %, Band:1.0 %, Lymph:28.0 %, Mono:6.0 %,
   Eos:1.0 %, LDH:189 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: ANC- 896
   Microbiology: blood (3 sets) and urine cx pending
   Assessment and Plan
   41 year old man with past medical history significant for EtOH abuse,
   c/b withdrawal seizures, with ? bipolar disorder, presenting to ED by
   EMS after being found intoxicated on the street, in fair condition.
   [**Name (NI) 10777**] unclear source. possible causes include viral, spinal focus,
   meningitis (though no meningeal signs)
   -nasal viral swab; consent for  HIV, check HCV viral load and HBV PCR
   -cont empiric ABX (vanco + cefepime)
   -plan for imaging lumbosacral spine
   -consider LP
   Leukopenia- d/t infection + EtOH suppression + med effect (phenytoin)
   -start neutropenic precautions
   -ID w/u as above
   EtOH withdrawal-
   -start CIWA protocol w/ Valium
   -daily thiamine and folate x 3d then MVI
   -change fosphenytoin to po Dilantin
   SW consult
   ICU Care
   Nutrition:
   Comments: as tolerated
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-2-23**] 05:01 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, critically ill
   Total time spent: 30 minutes

2163-02-25 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -CT T/L Spine: No abnormality in the spinal canal, no fluid collection
   seen, multiple bulla in lung apices (3.8cm in R.lung apex), multiple
   calcified granulomas in posterior lungs, 7mm spiculated nodule in
   LLL-->need to follow up final read b/c lots of details on report
   (?small amt of free pelvic fluid)
   -HIV consent done; viral labs sent
   -Fosphenytoin changed to PO
   -Only required single dose of valium
   -No fevers as of 11pm
   -Blood cultures 5:45am today: Gram positive rods
   -Need to order TTE
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Keppra (Oral) (Levetiracetam)
   psychosis;
   Last dose of Antibiotics:
   Vancomycin - [**2163-2-24**] 07:30 PM
   Cefipime - [**2163-2-24**] 08:53 PM
   Infusions:
   Other ICU medications:
   Fosphenytoin - [**2163-2-24**] 08:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-2-25**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**65**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.7
C (98.1
   HR: 68 (68 - 99) bpm
   BP: 116/76(85) {89/52(61) - 126/76(97)} mmHg
   RR: 13 (11 - 16) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,660 mL
                                                                     78 mL
   PO:
                                                                    920 mL
             TF:
   IVF:
                                                                    740 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  2,405 mL
                                                                    600 mL
   Urine:
                                                                  2,405 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -745 mL
                                                                   -522 mL
   Respiratory support
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Somnolent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: Mild TTP over suprapubic area
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, excoriations on patella bilaterally
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   149 K/uL
   9.3 g/dL
   93 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.1 mEq/L
   5 mg/dL
   104 mEq/L
   136 mEq/L
   30.3 %
   1.9 K/uL
        [image002.jpg]
                             [**2163-2-23**]  05:09 AM
                             [**2163-2-23**]  03:35 PM
                             [**2163-2-24**]  03:40 AM
                             [**2163-2-25**]  05:24 AM
   WBC
   2.1
   1.4
   1.9
   Hct
   30.8
   29.2
   30.3
   Plt
   183
   119
   149
   Cr
   0.5
   0.5
   0.6
   0.6
   TropT
   <0.01
   Glucose
   88
   155
   105
   93
   Other labs: PT / PTT / INR:10.5/24.9/0.9, CK / CKMB /
   Troponin-T:150/3/<0.01, ALT / AST:44/50, Alk Phos / T Bili:246/0.5,
   Differential-Neuts:31.0 %, Band:1.0 %, Lymph:53.0 %, Mono:7.0 %,
   Eos:7.0 %, LDH:189 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ALCOHOL ABUSE
 HYPOTHERMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   41 year old man with past medical history significant for EtOH abuse,
   c/b withdrawal seizures, with ? bipolar disorder, presenting to ED by
   EMS after being found intoxicated on the street, in fair condition.
   .
   #  INTOXICATION: Patient minimally responsive, with very high EtOH
   level ~3 hours after transfer to ED, suggesting exceedingly high levels
   when found on the street. Concern for ingestion of secondary substance,
   however serum osm gap is exactly that predicted for this degree of EtOH
   ingestion.
   Given history of seizure disorder, would also consider partial complex
   seizure at this time, however given pts ability to move all extremities
   and become verbally abusive and combative this is much less likely.
   - No Benzos at this time given very high EtOH
   - CIWA q1H
   - Seizure precautions
   - IV Thiamine / Folate / B12
   .
   # Fever/[**Name (NI) 10773**] Pt spiked 102 overnight; pancultured; thus far CXR
   and U/A unrevealing, blood and urine cultures pending.  [**Month (only) 11**] be viral
   cause of fever
   --Continue vanc/cefepime for broad coverage
   --Consider CMV, EBV; pt had HepB/HIV negative [**5-/2162**] but can recheck
   --Send RSV, Influenza
   --[**Month (only) 11**] consider imaging of back to r/o epidural abscess
   --F/U culture data
   -- CT L/T spine with contrast
   -- [**Month (only) 11**] need LP if above negative
   -- Send Hep B/Hep C viral load / Abx/ HIV ab/viral load for acute
   infection
   .
   #[**Name (NI) 10774**] Pts platelets trending down 119 today; not on heparin
   SC, low Hct and leukopenia
   -?Look at peripheral smear
   -Viral evaluation as above
   -Evaluate smear
   .
   #  FACIAL LAC: Repaired in ED, Tetanus shot given. Unable to assess for
   ligamentous neck trauma given profound intoxication
   -- Clear neck once mental status clears
   -- [**Location (un) 239**] J in place
   .
   #  SEIZURE DISORDER: Patient not on meds on admission; has seizure d/o
   --Started Phosphenytoin; check levels
   .
   #  ETOH ABUSE: Long [**Last Name **] problem per medical record, however only
   been in our system once ([**2162-5-21**]
   -- 10mg PO for CIWA>10 Q2H PRN
   .
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: pneumoboots, no indication of PPI / H2 blocker
   # ACCESS: PIV
   # CODE:  Presumed full
   # CONTACT:
   ICU [**Name2 (NI) 232**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-2-24**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2163-02-25 11:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   41 year old man with past medical history significant for EtOH abuse,
   c/b withdrawal seizures, with ? bipolar disorder, presenting to ED by
   EMS after being found intoxicated on the street, in fair condition.
   24 Hour Events:
   Only required 10mg Valium yest
   History obtained from Patient
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Keppra (Oral) (Levetiracetam)
   psychosis;
   Last dose of Antibiotics:
   Vancomycin - [**2163-2-25**] 08:10 AM
   Cefipime - [**2163-2-25**] 09:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   thiamine, folate, nicotine patch, Dilantin, lidocaine patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-2-25**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**65**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 86 (68 - 99) bpm
   BP: 112/63(76) {93/60(70) - 126/78(97)} mmHg
   RR: 13 (10 - 16) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,660 mL
                                                                    597 mL
   PO:
                                                                    920 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    740 mL
                                                                    357 mL
   Blood products:
   Total out:
                                                                  2,405 mL
                                                                    880 mL
   Urine:
                                                                  2,405 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -745 mL
                                                                   -283 mL
   Respiratory support
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Increased, hyprereflexic 3+ all
   4 ext
   Labs / Radiology
   9.3 g/dL
   149 K/uL
   93 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.1 mEq/L
   5 mg/dL
   104 mEq/L
   136 mEq/L
   30.3 %
   1.9 K/uL
        [image002.jpg]
                             [**2163-2-23**]  05:09 AM
                             [**2163-2-23**]  03:35 PM
                             [**2163-2-24**]  03:40 AM
                             [**2163-2-25**]  05:24 AM
   WBC
   2.1
   1.4
   1.9
   Hct
   30.8
   29.2
   30.3
   Plt
   183
   119
   149
   Cr
   0.5
   0.5
   0.6
   0.6
   TropT
   <0.01
   Glucose
   88
   155
   105
   93
   Other labs: PT / PTT / INR:10.5/24.9/0.9, CK / CKMB /
   Troponin-T:150/3/<0.01, ALT / AST:44/50, Alk Phos / T Bili:246/0.5,
   Differential-Neuts:31.0 %, Band:1.0 %, Lymph:53.0 %, Mono:7.0 %,
   Eos:7.0 %, LDH:189 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: HIV pending
   HBV/HCV viral loads- pending
   EBV- pending
   CMV- pending
   Imaging: CT TL spine- no spinal abnormalities; lung windows w/ bullous
   emphysematous, calcified granulomata, 7mm spiculated nodule in LLL
   Microbiology: Blood cx [**2-23**]- neg to date
   Blood cx [**2-24**] - GPRs
   Resp viral screen- pending
   Assessment and Plan
   41 year old man with past medical history significant for EtOH abuse,
   c/b withdrawal seizures, with ? bipolar disorder, presenting to ED by
   EMS after being found intoxicated on the street, in fair condition.
   [**Name (NI) 10777**] unclear source. possible causes include viral, spinal focus,
   meningitis (though no meningeal signs)
   -nasal viral swab; HIV negative, HCV viral load undetectable, HBcAb
   pos, HBsAb pos, HBsAg neg
   -f/u GPR x1 in bld cx; suspect diphtheroid contamination but monitor
   for poss true infxn
   -cont empiric ABX (vanco + cefepime)
   -plan for imaging lumbosacral spine
   Leukopenia- d/t infection + EtOH suppression + med effect (phenytoin)
   -start neutropenic precautions
   -ID w/u as above
   LE Weakness/ Hyperreflexia
   -CT TL spine neg for cord issues or infectious focus
   -consider neuro assistance
   EtOH withdrawal-
   -start CIWA protocol w/ Valium
   -change thiamine and folate to MVI
   -change fosphenytoin to po Dilantin
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-2-24**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor, dc foley
   Total time spent: 36 minutes